US05231190
The 2,2,8,8-tetramethyl-nona-3,6-diyn-5-ol prepared in Part A (7.0 g, 36 mmole) was dissolved in 150 mL of benzene, cooled to 5°-10° C. and nickel peroxide (18.15 g, 465 mmole) was added over a period of 20 minutes. After the addition had been completed, the reaction mixture was stirred at room temperature for 30 minutes, then filtered, and the nickel peroxide left on the filter was washed well with benzene and then with dichloromethane. The filtrate was evaporated to give a yellow solid, which was recrystallized from benzene to give 2,2,8,8-tetramethyl-nona-3,6-diyn-5-one as pale yellow crystals (4.2 g). The structure of this product was confirmed by FAB mass spectroscopy.

reactant | 2,2,8,8-tetramethyl-nona-3,6-diyn-5-ol | CC(C)(C#CC(C#CC(C)(C)C)O)C | C13H20O
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
catalyst | nickel peroxide | 465 mmole, 18.15 g | [O-2].[O-2].[O-2].[Ni+3].[Ni+3]
product | 2,2,8,8-tetramethyl-nona-3,6-diyn-5-one | 4.2 g | CC(C)(C#CC(C#CC(C)(C)C)=O)C | C13H18O
